US05147875
A mixture of 2-propoxybenzoic acid (5 g) in thionyl chloride (20 ml) was heated under reflux for three hours. Thionyl chloride was removed under reduced pressure and the residue was azeotroped with toluene to yield the acid chloride as a yellow oil (5.5 g). A solution of anthranilamide (3.77 g) in a mixture of saturated aqueous sodium acetate (20 ml) and acetic acid (20 ml) was added to the yellow oil in acetone (4 ml). The resulting solution was stirred at ambient temperature for one hour to yield as a light brown precipitate 2-(2-propoxybenzamido)benzamide, 3.78 g. A sample recrystallised from ether had m.p. 149°-150° C.

reactant | anthranilamide | 3.77 g | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
reactant | sodium acetate | 20 ml | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | 2-(2-propoxybenzamido)benzamide | C(CC)OC1=C(C(=O)NC2=C(C(=O)N)C=CC=C2)C=CC=C1 | C17H18N2O3
